US08026234B2
Compound 127: N-(azetidin-3-yl)-4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzamide
The title compound was synthesized from 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzoic acid as described in the general procedure for amide bond synthesis using HATU and 3-amino-N—Boc-azetidine. The Boc group was then removed by treatment with 1:1 trifluoroacetic acid and dichloromethane for 1 hour. At this time the solvent was removed and NaHCO3 (sat.) and EtOAc were added to the residue. The layers were separated, the organic layer was then dried over MgSO4, filtered, the solvent was removed and the final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.49-1.79 (m, 6H) 1.93 (br. s., 2H) 3.52-3.66 (m, 4H) 3.94 (s, 3H) 4.05 (t, J=14.02 Hz, 2H) 4.56-4.84 (m, 2H) 7.45-7.58 (m, 2H) 7.98 (s, 1H) 8.26 (s, 1H) 8.28 (d, J=8.34 Hz, 1H) 8.75 (d, J=7.07 Hz, 1H). [M+H] calculated for C24H29F2N7O3, 502. found 502.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzoic acid | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)O)C=C2OC)F | C21H22F3N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-amino-N—Boc-azetidine | NC1CN(C1)C(=O)OC(C)(C)C | C8H16N2O2
product | N-(azetidin-3-yl)-4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzamide | N1CC(C1)NC(C1=C(C=C(C(=C1)OC)NC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCC2)N1)F)=O | C24H28F3N7O3
